US04014915
A solution of dimethylaniline (6.0 ml.) in benzene (15 ml.) was added dropwise to a suspension of 2-hydroxyimino-2-phenylacetonitrile (7.3 g.) and phosgene (5.0 g.) in benzene (50 ml.) for 40 minutes under ice-cooling. The mixture was stirred for 2 hours at the same temperature and allowed to stand overnight. A solution of 4-methoxybenzyl alcohol (6.9 g.) and pyridine (4.0 ml.) in benzene (20 ml.) was added dropwise, for 30 minutes under ice-cooling to the mixture containing 2-chlorocarbonyloxyimino-2-phenylacetonitrile. The mixture was stirred for 7 hours at room temperature. The reaction mixture was then washed with water, 1N hydrochloric acid, water, a sodium bicarbonate aqueous solution and water, and dried over magnesium sulfate. The solution was concentrated and the residual crystals were triturated in n-hexane and collected by filtration. The crystals were recrystallized from a mixture of ethyl acetate and n-hexane to give 2-(4-methoxybenzyl)oxycarbonyloxyimino-2-phenylacetonitrile (3.1 g.). Mp 112° to 113° C. The mother liquor was concentrated to give the desired compound (2.4 g.). Total yield (5.5 g.).

reactant | dimethylaniline | 6.0 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2-hydroxyimino-2-phenylacetonitrile | 7.3 g | ON=C(C#N)C1=CC=CC=C1 | C8H6N2O
reactant | phosgene | 5.0 g | C(=O)(Cl)Cl | CCl2O
reactant | 4-methoxybenzyl alcohol | 6.9 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 2-chlorocarbonyloxyimino-2-phenylacetonitrile | ClC(=O)ON=C(C#N)C1=CC=CC=C1 | C9H5ClN2O2
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | pyridine | 4.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-methoxybenzyl)oxycarbonyloxyimino-2-phenylacetonitrile | 3.1 g | COC1=CC=C(COC(=O)ON=C(C#N)C2=CC=CC=C2)C=C1 | C17H14N2O4
